US06451814B1
4-(4-{2-[2-(3-Carbamoyl-4-hydroxy-phenyl)-2-hydroxy-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-{4-[2-({2-[3-(Aminocarbonyl)-4-(benzyloxy)phenyl]-2-hydroxyethyl}-amino)ethyl]anilino}-N-octyl-1-piperidinecarboxamide was dissolved in ethanol (20 mL) and 10% palladium on carbon added (0.1 g). The mixture was shaken overnight on a Parr apparatus under 50 psi hydrogen, filtered through a Celite pad and the solvent removed in vacuo. The residue was purified by flash chromatography on silica gel Merck-60 (eluant: 5:1 chloroform-methanol) to yield the title compound (0.030 g, 0.05 mmol)

reactant | 4-{4-[2-({2-[3-(Aminocarbonyl)-4-(benzyloxy)phenyl]-2-hydroxyethyl}-amino)ethyl]anilino}-N-octyl-1-piperidinecarboxamide | NC(=O)C=1C=C(C=CC1OCC1=CC=CC=C1)C(CNCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1)O | C38H53N5O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(4-{2-[2-(3-Carbamoyl-4-hydroxy-phenyl)-2-hydroxy-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.05 mmol, 0.030 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNCC(O)C1=CC(=C(C=C1)O)C(N)=O | C31H47N5O4
